US06022895
A suspension of 60.8 g potassium carbonate in 300 ml of dry pyridine was treated with 35.7 g 7-hydroxy-3,4-dihydro-2H-naphthalen-1-one, and the mixture was heated to 40° C. Thereafter, 19.9 g copper(II) oxide was added thereto with stirring, followed by the drop-wise addition of 39.6 g bromobenzene. The reaction mixture was heated for 4 days under reflux. After evaporating the pyridine completely under vacuum, the residue was stirred with 200 ml ethyl acetate and was filtered through silica gel. The filtrate was washed with saturated solutions of ammonium chloride and sodium chloride, dried over sodium sulfate and concentrated by evaporation under vacuum. The residue was purified by column chromatography, using n-hexane/ethyl acetate as the elutant, whereupon 41.2 g (78.6% of theoretical) 7-phenoxy-3,4-dihydro-2H-naphthalen-1-one was obtained.

reactant | potassium carbonate | 60.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 7-hydroxy-3,4-dihydro-2H-naphthalen-1-one | 35.7 g | OC1=CC=C2CCCC(C2=C1)=O | C10H10O2
reactant | bromobenzene | 39.6 g | BrC1=CC=CC=C1 | C6H5Br
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
catalyst | copper(II) oxide | 19.9 g | [Cu]=O
product | 7-phenoxy-3,4-dihydro-2H-naphthalen-1-one | 41.2 g, 78.6% | O(C1=CC=CC=C1)C1=CC=C2CCCC(C2=C1)=O | C16H14O2
